US05536716
Step A: 1,4-Dihydro-4-phenylspiro(3H-2-benzopyran-3,4'-piperidine)-1-one
Prepared by the procedure described in Example 3, Step A from 1'-benzyl-1,4-dihydro-4-phenylspiro(3H-2-benzopyran-3,4'-piperidine)-1-one hydrochloride, (8 mg, 0.019 mmol) and ethanol (5 mL). Reaction time: 45 minutes. Yield 5.5 mg (98.5%).

reactant | 1'-benzyl-1,4-dihydro-4-phenylspiro(3H-2-benzopyran-3,4'-piperidine)-1-one hydrochloride | 0.019 mmol, 8 mg | Cl.C(C1=CC=CC=C1)N1CCC2(CC1)OC(C1=C(C2C2=CC=CC=C2)C=CC=C1)=O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 1,4-Dihydro-4-phenylspiro(3H-2-benzopyran-3,4'-piperidine)-1-one | C1(=CC=CC=C1)C1C2=C(C(OC13CCNCC3)=O)C=CC=C2 | C19H19NO2
